US09145433B2
Stirring solution of 6-bromoimidazo[1,2-a]pyridine-3-carbaldehyde [see Bioorg. Med. Chem. Let. 15(17), 5837-5844; 2007; Int'l Pat. App. Pub. no, 2011/055320] (1.5 g, 6.6 mmol) in MeOH (20 mL) was cooled to 0° C. and NaBH4 (0.50 g, 13.2 mmol) was added in portions for a period of 20 min. Cooling was removed after 1 h and allowed to stir for 3 h. The reaction mixture was quenched with water and concentrated by rotary evaporator to dryness. Subsequently, the solid concentrate was diluted with water and collected on the Buchner funnel by suction filtration. The solid was suction dried to obtain (6-bromoimidazo[1,2-a]pyridin-3-yl)methanol as a pale yellow crystalline solid (0.83 g). 1H NMR (300 MHz, DMSO-d6) δ 8.63 (dd, J=2.0, 0.9 Hz, 1H), 7.55 (dd, J=9.5, 0.9 Hz, 1H), 7.52 (s, 1H), 7.36 (dd, J=9.5, 2.0 Hz, 1H), 5.27 (t, J=5.4 Hz, 1H), 4.79 (d, J=5.3 Hz, 2H). See J. Med. Chem., 54(7), 2455-66 (2011).

reactant | 6-bromoimidazo[1,2-a]pyridine-3-carbaldehyde | BrC=1C=CC=2N(C1)C(=CN2)C=O | C8H5BrN2O
reactant | NaBH4 | 13.2 mmol, 0.50 g | [BH4-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (6-bromoimidazo[1,2-a]pyridin-3-yl)methanol | 0.83 g | BrC=1C=CC=2N(C1)C(=CN2)CO | C8H7BrN2O
